US03940395
In a similar manner, reacting p-bromobenzamidine hydrobromide with diethyl malonate produces 2-(4-bromophenyl)-4,6-(1H,5H)-pyrimidinedione, which is reacted with phosphoryl chloride to afford 2-(4-bromophenyl)-4,6-dichloropyrimidine.

reactant | p-bromobenzamidine hydrobromide | Br.BrC1=CC=C(C(=N)N)C=C1
reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
product | 2-(4-bromophenyl)-4,6-(1H,5H)-pyrimidinedione | BrC1=CC=C(C=C1)C=1NC(CC(N1)=O)=O | C10H7BrN2O2
